US05036091
Step 1: 4-Methoxymethyl-1,3-dioxolane-2-one (S) (code number MD 360287)
A mixture of 14 g (0.132 mol) of 3-methoxypropane-1,2-diol (S)and 31.16 g (0.264 mol) of diethyl carbonate in the presence of 0.108 g of 50% sodium hydride is heated until distillation of the alcohol formed. After completion of the reaction, the aimed product is distilled.

reactant | 3-methoxypropane-1,2-diol | 0.132 mol, 14 g | COCC(CO)O | C4H10O3
reactant | diethyl carbonate | 0.264 mol, 31.16 g | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 0.108 g | [H-].[Na+]
product | 4-Methoxymethyl-1,3-dioxolane-2-one | COCC1OC(OC1)=O | C5H8O4
